US04282242
Methyl 1-methyl-5-cyclohexylcarbonylpyrrole-3-carboxylate.
Belgian Pat. No. 870,910 (published Mar. 29, 1979) discloses preparation of analogous 1-alkyl-5-acylpyrrole-3-carboxylates, specifically exemplifying preparation of methyl 1-methyl-5-(3-chlorobenzoyl)pyrrole-3-carboxylate by Friedel-Crafts acylation of 1-methylpyrrole-3-carboxylic acid followed by esterification and separation from the 4-acyl isomer.

reactant | methyl 1-methyl-5-(3-chlorobenzoyl)pyrrole-3-carboxylate | CN1C=C(C=C1C(C1=CC(=CC=C1)Cl)=O)C(=O)OC | C14H12ClNO3
reactant | 1-methylpyrrole-3-carboxylic acid | CN1C=C(C=C1)C(=O)O | C6H7NO2
product | Methyl 1-methyl-5-cyclohexylcarbonylpyrrole-3-carboxylate | CN1C=C(C=C1C(=O)C1CCCCC1)C(=O)OC | C14H19NO3
